US09303012B2
[5-Cyclopropyl-6-(2-methyl-propane-1-sulfonyl)-pyridin-2-yl]-(4,4-dimethyl-oxazolidin-3-yl)-methanone
In analogy to the procedure described in Example 47 b), 5-cyclopropyl-6-(isobutylsulfonyl)picolinic acid (Example 6 d)) was reacted with 4,4-dimethyloxazolidine (CAN 51200-87-4) in the presence of TBTU and DIEA to obtain the title compound as colorless solid; MS (EI): m/e=367.4 [MH+].

reactant | 5-cyclopropyl-6-(isobutylsulfonyl)picolinic acid | C1(CC1)C=1C=CC(=NC1S(=O)(=O)CC(C)C)C(=O)O | C13H17NO4S
reactant | 4,4-dimethyloxazolidine | CC1(NCOC1)C | C5H11NO
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | [5-Cyclopropyl-6-(2-methyl-propane-1-sulfonyl)-pyridin-2-yl]-(4,4-dimethyl-oxazolidin-3-yl)-methanone | C1(CC1)C=1C=CC(=NC1S(=O)(=O)CC(C)C)C(=O)N1COCC1(C)C | C18H26N2O4S
